US04444766
Diethyl phenylmalonate is reduced with lithium aluminium hydride to give 2-phenyl-propane-1,3-diol and esterified with an equimolar amount of benzenesulphochloride in anhydrous pyridine to give 2-phenylpropane-1,3-diol monobenzenesulphonate (wax-like substance). Reaction thereof with the potassium salt of hexadecanethiol in ethanol gives the desired 3-hexadecylthio-2-phenylpropan-1-ol (wax-like substance).

reactant | Diethyl phenylmalonate | C1(=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C13H16O4
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-phenyl-propane-1,3-diol | C1(=CC=CC=C1)C(CO)CO | C9H12O2
